US07612099B2
3-[(5-Fluoro-3-methyl-1H-indol-2-yl)-phenyl-methyl]-4-hydroxy-5,5-dimethyl-1,5-dihydro-pyrrol-2-one
Using general procedure D, rac-4-hydroxy-5,5-dimethyl-1,5-dihydro-pyrrol-2-one (Lit. 18) was reacted with benzaldehyde and 5-fluoro-3-methyl-1H-indole to give the title compound as a yellow solid. MS: 365.1 ([M+H]+).

reactant | rac-4-hydroxy-5,5-dimethyl-1,5-dihydro-pyrrol-2-one | OC1=CC(NC1(C)C)=O | C6H9NO2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 5-fluoro-3-methyl-1H-indole | FC=1C=C2C(=CNC2=CC1)C | C9H8FN
product | 3-[(5-Fluoro-3-methyl-1H-indol-2-yl)-phenyl-methyl]-4-hydroxy-5,5-dimethyl-1,5-dihydro-pyrrol-2-one | FC=1C=C2C(=C(NC2=CC1)C(C=1C(NC(C1O)(C)C)=O)C1=CC=CC=C1)C | C22H21FN2O2
